US06121307
5-Fluoro-2,3-dihydrobenzofuran
A solution of 5-fluorobenzofuran and 10% palladium on carbon in acetic acid (25 ml) was hydrogenated under 50 psi for 12 hours. The catalyst was filtered through celite, and the celite was washed with methylene chloride (200 ml). The organic layer was washed with 1N NaOH (3×100 ml), brine (3×100 ml) and dried over anhydrous sodium sulfate. The solvent was removed under vacuum to afforded 2.59 g (85%) of product as a clear oil.

reactant | 5-fluorobenzofuran | FC=1C=CC2=C(C=CO2)C1 | C8H5FO
catalyst | palladium on carbon | [Pd] | Pd
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 5-Fluoro-2,3-dihydrobenzofuran | 2.59 g, 85% | FC=1C=CC2=C(CCO2)C1 | C8H7FO
